US05563278
α-Hexyl-4-[(9-hydroxy-9H-fluoren-9-ylcarbonyl)amino]-1H-imidazole-1-acetic acid
When 2.1 g of -hexyl-4-[(9H-fluoren-9-yl-carbonyl)amino]-1H-imidazole-1-acetic acid ethyl ester was heated with 3.0 g of potassium hydroxide, 30 ml of methanol, and 15 ml of water at reflux for one hour, upon adjustment of pH to 3.8, a thick oil formed. The oil was dissolved in ethyl acetate and separated from the aqueous layer. The organic layer was dried and concentrated in vacuo. The oil was taken up in ethanol and saturated with hydrogen chloride gas. The resulting product was purified by high pressure liquid chromatography to provide 0.370 g of the titled product, m.p. 128° C.

reactant | hexyl-4-[(9H-fluoren-9-yl-carbonyl)amino]-1H-imidazole-1-acetic acid ethyl ester | C(C)OC(CN1C(=NC(=C1)NC(=O)C1C2=CC=CC=C2C=2C=CC=CC12)CCCCCC)=O | C27H31N3O3
reactant | potassium hydroxide | 3.0 g | [OH-].[K+]
reactant | methanol | 30 ml | CO | CH4O
reactant | water | 15 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | α-Hexyl-4-[(9-hydroxy-9H-fluoren-9-ylcarbonyl)amino]-1H-imidazole-1-acetic acid | 0.370 g | C(CCCCC)C(C(=O)O)N1C=NC(=C1)NC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)O | C25H27N3O4
